CIRCUIT D:\Documents and Settings\sicard\Mes documents\microwind31\examples\DAC.MSK
*
* IC Technology: CMOS 90nm, 6 Metal Copper - strained SiGe - LowK
*
VDD 1 0 DC 1.20
VB0 24 0 PULSE(0.00 1.20 1N 1N 1N 1N 5N)
VB1 23 0 PULSE(0.00 1.20 4N 1N 1N 4N 10N)
VB2 22 0 PULSE(0.00 1.20 9N 1N 1N 9N 20N)
*
* List of nodes
* "N2" corresponds to n°2
* "N4" corresponds to n°4
* "N5" corresponds to n°5
* "N6" corresponds to n°6
* "Vout" corresponds to n°7
* "N8" corresponds to n°8
* "N9" corresponds to n°9
* "~B2" corresponds to n°11
* "~B1" corresponds to n°13
* "VRef5" corresponds to n°15
* "Vref1" corresponds to n°18
* "~B0" corresponds to n°21
* "B2" corresponds to n°22
* "B1" corresponds to n°23
* "B0" corresponds to n°24
*
* MOS devices
MN1 14 21 4 0 N1  W= 0.30U L= 0.10U
MN2 0 22 11 0 N1  W= 0.20U L= 0.10U
MN3 10 13 8 0 N1  W= 0.30U L= 0.10U
MN4 9 23 8 0 N1  W= 0.30U L= 0.10U
MN5 8 11 7 0 N1  W= 0.30U L= 0.10U
MN6 7 22 5 0 N1  W= 0.30U L= 0.10U
MN7 5 13 6 0 N1  W= 0.30U L= 0.10U
MN8 5 23 4 0 N1  W= 0.30U L= 0.10U
MN9 15 24 6 0 N1  W= 0.30U L= 0.10U
MN10 16 21 6 0 N1  W= 0.30U L= 0.10U
MN11 17 21 9 0 N1  W= 0.30U L= 0.10U
MN12 18 24 10 0 N1  W= 0.30U L= 0.10U
MN13 0 21 10 0 N1  W= 0.30U L= 0.10U
MN14 19 24 4 0 N1  W= 0.30U L= 0.10U
MN15 20 24 9 0 N1  W= 0.30U L= 0.10U
MN16 0 23 13 0 N1  W= 0.20U L= 0.10U
MN17 0 24 21 0 N1  W= 0.20U L= 0.10U
MP1 5 13 4 1 P1  W= 0.50U L= 0.10U
MP2 5 23 6 1 P1  W= 0.50U L= 0.10U
MP3 7 11 5 1 P1  W= 0.50U L= 0.10U
MP4 8 22 7 1 P1  W= 0.50U L= 0.10U
MP5 9 13 8 1 P1  W= 0.50U L= 0.10U
MP6 10 23 8 1 P1  W= 0.50U L= 0.10U
MP7 1 22 11 1 P1  W= 0.20U L= 0.10U
MP8 1 23 13 1 P1  W= 0.20U L= 0.10U
MP9 14 24 4 1 P1  W= 0.50U L= 0.10U
MP10 15 21 6 1 P1  W= 0.50U L= 0.10U
MP11 16 24 6 1 P1  W= 0.50U L= 0.10U
MP12 17 24 9 1 P1  W= 0.50U L= 0.10U
MP13 18 21 10 1 P1  W= 0.50U L= 0.10U
MP14 0 24 10 1 P1  W= 0.50U L= 0.10U
MP15 19 21 4 1 P1  W= 0.50U L= 0.10U
MP16 20 21 9 1 P1  W= 0.50U L= 0.10U
MP17 1 24 21 1 P1  W= 0.20U L= 0.10U
*
C3 1 0 19.737fF
C4 4 0  1.803fF
C5 5 0  1.638fF
C6 6 0  1.872fF
C7 7 0  1.150fF
C8 8 0  1.727fF
C9 9 0  1.815fF
C10 10 0  1.719fF
C11 11 0  1.103fF
C13 13 0  1.476fF
C14 14 0  0.672fF
C15 15 0  0.670fF
C16 16 0  0.670fF
C17 17 0  0.671fF
C18 18 0  0.671fF
C19 19 0  0.647fF
C20 20 0  0.667fF
C21 21 0  1.695fF
C22 22 0  0.684fF
C23 23 0  1.010fF
C24 24 0  0.416fF
*
* Extra RLC
*
Radd1 14 15 3120
Radd2 19 1 1471
Radd3 15 16 3080
Radd4 20 17 3134
Radd5 16 20 3107
Radd6 19 14 2144
Radd7 17 18 3134
Radd8 18 0 2480
*
*
* n-MOS BSIM4 :
* low leakage
.MODEL N1 NMOS LEVEL=14 VTHO=0.28 U0=0.060 TOXE= 1.2E-9 LINT=0.015U 
+K1 =0.450 K2=0.100 DVT0=2.300
+DVT1=0.570 LPE0=23.000e-9 ETA0=0.080
+NFACTOR=  0.9 U0=0.060 UA=3.400e-15
+WINT=0.005U LPE0=23.000e-9 
+KT1=-0.060 UTE=-1.800 VOFF=0.010
+XJ=0.150U NDEP=170.000e15 PCLM=1.100
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p
*
* p-MOS BSIM4:
* low leakage
.MODEL P1 PMOS LEVEL=14 VTHO=-0.32 U0=0.027 TOXE= 1.2E-9 LINT=0.015U 
+K1 =0.450 K2=0.100 DVT0=2.300
+DVT1=0.570 LPE0=23.000e-9 ETA0=0.080
+NFACTOR=  1.9 U0=0.027 UA=2.200e-15
+WINT=0.005U LPE0=23.000e-9 
+KT1=-0.060 UTE=-1.800 VOFF=0.010
+XJ=0.150U NDEP=170.000e15 PCLM=0.700
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p
*
* Transient analysis
*
* (Winspice)
.options temp=27.0
.control
tran 0.1N 100.00N
print  V(7) V(15) V(24) V(23) V(22) > out.txt
plot  V(7) V(15) V(24) V(23) V(22)
.endc
.END
